US04064247
A solution of (S)-3-hydroxymethyl-1,2,3,4-tetrahydroisoquinoline (41 g.) in a mixture of sulphuric acid (d = 1.83; 13 cc.) and water (70 cc.) is heated at 110° C. Water (about 50 cc.) is distilled off and the mixture is then concentrated under reduced pressure (20 mm. Hg) at 100° C. The brown oily residue is taken up in a mixture of sulphuric acid (d = 1.83; 13 cc. ) and water (70 cc.); water (50 cc.) is again distilled off and the mixture is then concentrated as previously described, after which the concentration is finished at 100° C. under reduced pressure (1 mm. Hg). The residue, which crystallises on cooling, is recrystallised from a mixture of ethanol (140 cc.) and water (60 cc.) After cooling for 15 hours at about 5° C., the crystals which have appeared are filtered off and washed with a mixture of ethanol and water (3:1 by volume) (20 cc.) and then with ethanol (2 × 25 cc.). After drying at 60° C . under reduced pressure (1 mm. Hg), (S)-3-hydroxysulphonyloxymethyl-1,2,3,4-tetrahydroisoquinoline (48 g.) is obtained in the form of white crystals.

reactant | (S)-3-hydroxymethyl-1,2,3,4-tetrahydroisoquinoline | 41 g | OC[C@H]1NCC2=CC=CC=C2C1 | C10H13NO
reactant | sulphuric acid | 13 cc | S(O)(O)(=O)=O | H2O4S
solvent | water | 70 cc | O | H2O
product | (S)-3-hydroxysulphonyloxymethyl-1,2,3,4-tetrahydroisoquinoline | 48 g | OS(=O)(=O)OC[C@H]1NCC2=CC=CC=C2C1 | C10H13NO4S
